US07232847B2
(4-Dimethylamino-4-phenylcyclohexyl)methanol:
4-Dimethylamino-4-phenylcyclohexanecarbaldehyde (2.35 g, 10.2 mmol) was stirred in a mixture of 1 M NaOH (10.2 ml) and ethanol/water (2:1, 60 ml) for 30 min at RT under argon as inert gas. A solution of sodium borohydride (769 mg, 20.3 mmol) in water (40 ml) was then added dropwise at RT over 60 min and the mixture was stirred for 2 h. For the work-up, the ethanol was driven off under vacuum and the aqueous residue was extracted with EE (6×20 ml). The combined extracts were washed with saturated NaCl solution (2×20 ml), dried and concentrated. The resulting residue (2.2 g of brown oil) was a mixture of the two diastereoisomers of (4-dimethylamino-4-phenylcyclohexyl)methanol.

reactant | 4-Dimethylamino-4-phenylcyclohexanecarbaldehyde | 10.2 mmol, 2.35 g | CN(C1(CCC(CC1)C=O)C1=CC=CC=C1)C | C15H21NO
reactant | sodium borohydride | 20.3 mmol, 769 mg | [BH4-].[Na+]
reactant | ethanol | C(C)O | C2H6O
solvent | NaOH | 1 M, 10.2 ml | [OH-].[Na+]
solvent | ethanol water | 60 ml | C(C)O.O
solvent | water | 40 ml | O | H2O
product | (4-Dimethylamino-4-phenylcyclohexyl)methanol | CN(C1(CCC(CC1)CO)C1=CC=CC=C1)C | C15H23NO
